* Knowm Mean Metastable Switch Memristor SPICE Model
* Copyright Tim Molter Knowm Inc. 2017

* Connections:
* TE:  Top electrode
* BE:  Bottom electrode
* XSV: External connection to plot state variable
*      that is not used otherwise

.SUBCKT MEM_vol TE BE XSV

* Ron:  Minimum device resistance
* Roff: Maximum device resistance
* Von:  Threshold voltage to turn device on
* Voff: Threshold voltage to turn device off
* TAU:  Time constant
* T:    Temperature

.params R_on={Ron_} R_off={Roff_} Voff={Vtn} Von={Vtp} k={k_d}
.params inv_TAU={1/tauv} T=298 Vt=26m

* Function G(V(t)) - Describes the device threshold
.func G(xx) = xx/R_on+(1-xx)/R_off

* Function F(V(t),x(t)) - Describes the SV motion
.func ff(vm,xx) =inv_TAU*(1/(1+exp(-(abs(vm)-Von)/Vt/k))*(1-xx)-(1-1/(1+exp(-(abs(vm)-Voff)/Vt/k)))*xx)
* Memristor I-V Relationship
.func IVRel(V1,xx) = V1*G(xx)

* Circuit to determine state variable
* dx/dt = F(V(t),x(t))
Cx XSV 0 {1}
.ic V(XSV) = {x0}
Gx 0 XSV value={ff(V(TE,BE),V(XSV,0))}
*Raux sv 0 100k

* Current source for memristor IV response
Gmem TE BE value={V(TE,BE)*G(V(XSV,0))}

.ENDS MEM_vol
